US04144342
Preparation of 3,4α-di-O-isopropylidine derivative of 2-methyl-3-hydroxy-4-hydroxymethyl-5-vinylpyridine
67 Ml. of n-butyl lithium (1.9 M in n-hexane) was run into a stirred suspension of triphenylmethylphosphonium bromide (42.7 g., 0.12 M) at room temperature in tetrahydrofuran (300 ml.) under nitrogen. To this stirred solution a solution of the 3,4α-di-O-isopropylidine derivative of 2-methyl-3-hydroxy-4-hydroxymethyl-5-formylpyridine (24.7 gm. 0.119 M) in tetrahydrofuran (300 ml.) was added dropwise over 1 hour. The reaction was aged 1 hour at room temperature and then refluxed for 4 hours.

reactant | n-butyl lithium | 1.9 M | C(CCC)[Li]
reactant | triphenylmethylphosphonium bromide | 0.12 M, 42.7 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | 2-methyl-3-hydroxy-4-hydroxymethyl-5-formylpyridine | 0.119 M, 24.7 gm | CC1=NC=C(C(=C1O)CO)C=O | C8H9NO3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-hydroxy-4-hydroxymethyl-5-vinylpyridine | CC1=NC=C(C(=C1O)CO)C=C | C9H11NO2
